US06262292B1
13.2 g of m-cyanobenzylamine, 23.8 g of sodium persulfate and 200 ml of water were mixed and allowed to react at 70° C. for 2 hours while stirring. After cooling the reaction mixture to room temperature, sodium bicarbonate was added to render the solution weakly alkaline. The solution was subjected to separation, column chromatography, and crystallization operations in the same manner as in Example 19 to obtain 6.7 g (yield: 51%) of m-cyanobenzaldehyde. The purity was 98%.

reactant | m-cyanobenzylamine | 13.2 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | sodium persulfate | 23.8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 200 ml | O | H2O
product | m-cyanobenzaldehyde | 6.7 g, yield: 51% | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
